US06599925B2
1-{2-[5-Bromo-6-(1H-1,2,3,4tetraazol-5-ylmethoxy)-2-naphthyl]-1-benzofuran-3-yl}-1-pentanone
A mixture of 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile (0.488 g, 1.06 mmol), sodium azide (0.347 g, 5.34 mmol), ammonium chloride (0.289 g, 5.40 mmol) in DMF (10 ml) was heated to 80° C. for 2 hours. The reaction mixture was allowed to cool to room temperature. It was poured into excess water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water and brine. It was dried over anhydrous magnesium sulfate, filtered and solvent evaporated. The residue was purified by HPLC using 0.1% TFA in 80% acetonitrile/20% water as the mobile phase. The acetonitrile was evaporated and the residue was extracted with ethyl acetate The extract was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The solid was dried at 90° C. for 11 hours affording the title compound as a light yellow solid (0.232 g), m184-185° C. Mass spectrum (+APCl, [M+H]+) m/z 505. 1HNMR (400 MHz, DMSO-d6): δ16.8-17.2 (br s, 1H), 8.5 (d, 1H, J=1.7 Hz), 8.25 (t, 2H, J=9.1 Hz), 8.0-8.05 (m, 2H), 7.75-7.8 (m, 2H), 7.4-7.5 (m, 2H), 5.8 (s, 2H), 2.75 (t, 2H, J=7.3 Hz), 1.5-1.6 (m, 2H), 1.1-1.2 (m, 2H), and 0.7 ppm (t, 3H, J=7.3 Hz). Elemental Analysis for C25H21, BrN4O3: Calculated: C, 59.42; H, 4.19; N, 11.09. Found: C, 59.03; H, 3.98; N, 10.75.

reactant | 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile | 1.06 mmol, 0.488 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC#N | C25H20BrNO3
reactant | sodium azide | 5.34 mmol, 0.347 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5.40 mmol, 0.289 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-{2-[5-Bromo-6-(1H-1,2,3,4tetraazol-5-ylmethoxy)-2-naphthyl]-1-benzofuran-3-yl}-1-pentanone | 0.232 g | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C25H21BrN4O3
